US04495104
In 60 ml of 1,2-dichloroethane is dissolved 8 g of methyl 21-chloroformylheneicosanoate, followed by addition of 5.5 g of aluminum chloride. The mixture is stirred. Then, under ice-cooling and stirring in a nitrogen stream, a solution of 5.67 g of 3,4,5-trimethoxytoluene in 1,2-dichloroethane (13 ml) is added dropwise. The mixture is stirred for 48 hours, after which 1.3 g of aluminum chloride is added. The mixture is stirred at room temperature for 16 hours and further at 35° C.-38° C. for 40 minutes. To this reaction mixture are added ice-water and 3N-HCl, followed by extraction with chloroform. The extract is washed with water, a saturated aqueous solution of sodium hydrogen carbonate and water in that order. After drying, the solvent is distilled off under reduced pressure and the residue is chromatographed on silica gel. The fractions containing the desired compound are pooled and recrystallized from methanol. The above procedure yields methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate as colorless needles. m.p. 73°-74° C. NMR(δ, in deuteriochloroform): 1.24(36H, b, CH2), 2.27(2H,t,CH2COO), 2.42(3H, s, nuclear CH3), 2.86(2H, t,COCH2), 3.64(3H,s,COOCH3), 3.84(3H,s,OCH3), 3.87(3H,s,OCH3), 6.22(1H,s,nuclear H).

reactant | methyl 21-chloroformylheneicosanoate | 8 g | ClC(=O)CCCCCCCCCCCCCCCCCCCCC(=O)OC | C23H43ClO3
reactant | aluminum chloride | 5.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4,5-trimethoxytoluene | 5.67 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
reactant | aluminum chloride | 1.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 13 ml | ClCCCl | C2H4Cl2
product | methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate | OC1=C(C(=O)CCCCCCCCCCCCCCCCCCCCC(=O)OC)C(=CC(=C1OC)OC)C | C32H54O6
